US06852730B2
A mixture of 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide (192 mg, 0.50 mmol) and tris(dimethylamino)methane (181 mg, 1.25 mmol) is stirred in a pressure reactor at 60° C. for 5 hours. After cooling, the reaction mixture is dissolved in ethanol (5 mL), treated with formamidine acetate (1.00 g, 9.6 mmol), and stirred in a pressure reactor at 110° C. for 18 hours. The reaction mixture is poured into 10% NaCl (50 mL), treated with 1 M sodium carbonate to pH 11 and extracted with chloroform (40 mL). The extract is dried over sodium carbonate, and the solvent is evaporated under reduced pressure. The residue is triturated with diethyl ether to give pure crystalline 5,7-dihydro-6H-pyrazolo[3,4-h]quinazoline-9-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide. 1H NMR (CD3OD) t, J=7.1 Hz, 6H), 1.98 (m, 2H), 2.61 (q, J=7.1 Hz, 4H), 2.69 (m, 2H), 3.10 (m, 2H), 3.16 (m, 2H), 4.32 (t, J=6.2 Hz, 2H), 6.84 (dd, J=8.8 and 0.5 Hz, 1H), 8.17 (dd, J=8.9 and 2.7 Hz, 1H), 8.51 (dd, J=2.7 and 0.5 Hz, 1H), 8.65 (s, 1H), 9.09 (s, 1H) MW 421.507; MS (M+H)+ 422.

reactant | 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide | 0.50 mmol, 192 mg | C(C)N(CCCOC1=CC=C(C=N1)NC(=O)C1=NNC=2CCCC(C12)=O)CC | C20H27N5O3
reactant | tris(dimethylamino)methane | 1.25 mmol, 181 mg | CN(C)C(N(C)C)N(C)C | C7H19N3
reactant | formamidine acetate | 9.6 mmol, 1.00 g | C(C)(=O)O.C(=N)N
reactant | NaCl | 50 mL | [Na+].[Cl-]
reactant | sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5,7-dihydro-6H-pyrazolo[3,4-h]quinazoline-9-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide | C(C)N(CCCOC1=CC=C(C=N1)NC(=O)C1=NNC=2CCC=3C=NC=NC3C21)CC | C22H27N7O2
